US07427632B2
4-{2-[(6-Chlorobenzo[b]thiophene-2-carbonyl)amino]-2-(2-chlorophenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester
Using coupling method A, 4-[2-amino-2-(2-chlorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester (300 mg, 0.8 mmol) and 6-chlorobenzo[b]thiophene-2-carboxylic acid (172 mg, 0.8 mmol) afforded, after purification (SiO2: 50% EtOAc in hexane), 353 mg (77%) of the title compound.

reactant | 4-[2-amino-2-(2-chlorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester | 0.8 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)Cl)N | C19H29ClN2O3
reactant | 6-chlorobenzo[b]thiophene-2-carboxylic acid | 0.8 mmol, 172 mg | ClC=1C=CC2=C(SC(=C2)C(=O)O)C1 | C9H5ClO2S
product | 4-{2-[(6-Chlorobenzo[b]thiophene-2-carbonyl)amino]-2-(2-chlorophenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)Cl)NC(=O)C1=CC2=C(S1)C=C(C=C2)Cl | C28H32Cl2N2O4S
